US07034166B2
Preparation of 2-methyl-1-(4-methylphenyl)-2-(2,3,5-trimethylphenoxy)-1-propanone
2-bromo-2-methyl-1-(4-methylphenyl)-1-propanone (422 g) in dimethyl sulfoxide (DMSO, 681 mL) was added dropwise to a solution of 2,3,5-trimethylphenol (136.19 g) and potassium carbonate (276.4 g) in DMSO (681 mL), followed by stirring at 35° C. for 24 hours. To the mixture were added dropwise methanol (953 mL) warmed to 55° C. and then water (953 mL). The mixture was stirred at 55° C. for 30 minutes and then at 40° C. for 1 hour. Precipitated crystals were filtered and suspended in methanol (2043 mL). Water (681 mL) was added to the suspension and the mixture was stirred at 40° C. for 1 hour. Precipitated crystals were filtered to obtain the title compound (257.98 g, 87%).

reactant | 2-bromo-2-methyl-1-(4-methylphenyl)-1-propanone | 422 g | BrC(C(=O)C1=CC=C(C=C1)C)(C)C | C11H13BrO
reactant | 2,3,5-trimethylphenol | 136.19 g | CC1=C(C=C(C=C1C)C)O | C9H12O
reactant | potassium carbonate | 276.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 953 mL | CO | CH4O
solvent | dimethyl sulfoxide | 681 mL | CS(=O)C | C2H6OS
solvent | DMSO | 681 mL | CS(=O)C | C2H6OS
solvent | water | 953 mL | O | H2O
product | 2-methyl-1-(4-methylphenyl)-2-(2,3,5-trimethylphenoxy)-1-propanone | 257.98 g, 87% | CC(C(=O)C1=CC=C(C=C1)C)(C)OC1=C(C(=CC(=C1)C)C)C | C20H24O2
